US08664220B2
Step 4: 1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 2, Step 2, using 5-4-bromo-phenyl)-3-methyl-4-(4-phenyl-but-1-enyl)-isoxazole and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | 3-methyl-4-(4-phenyl-but-1-enyl)-isoxazole | CC1=NOC=C1C=CCCC1=CC=CC=C1 | C14H15NO
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C=CCCC1=CC=CC=C1 | C32H31NO3
